US07282575B2
DCC (308 mg, 1.5 mmol) was added to a DMF solution (10 mL) of HABA-Gly-OH (299 mg, 1 mmol) and PfpOH (276 mg, 1.5 mmol) while ice cooling, and the reaction mixture was stirred at room temperature for 15 hours. The reaction mixture was filtered, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (0-5% acetone/CH2Cl2) to give HABA-Gly-OPfp (46 mg, 10%) as an orange powder. 1H NMR (CDCl3) δ 9.67 (brs, 1H), 9.02 (brt, 1H), 7.8-7.7 (m, 3H), 7.6-7.5 (m, 2H), 7.23 (d, J=9 Hz, 1H), 6.86 (d, J=9 Hz, 2H), 4.67 (d, J=5 Hz, 2H).

reactant | DCC | 1.5 mmol, 308 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Gly-OH | 1 mmol, 299 mg | NCC(=O)O | C2H5NO2
reactant | PfpOH | 1.5 mmol, 276 mg | OC1=C(F)C(F)=C(F)C(F)=C1F | C6HF5O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Gly-OPfp | 46 mg, 10% | NCC(=O)OC1=C(F)C(F)=C(F)C(F)=C1F | C8H4F5NO2
